US03941804
20 ml (0.02 mol) of 1 N sodium hydroxide solution are added dropwise over the course of 10 minutes, whilst stirring, to a mixture of 2.04 g (0.01 mol) of 1-cyclohexyl-2-imino-imidazolidine hydrochloride and 2.96 g (0.01 mol) of 5-(2-butyramido-ethyl)-2-thiophenesulphonyl chloride in 45 ml of water-acetone (1:2), at 25°C. In the course thereof, the reaction temperature rises to 33°C. The reaction mixture is stirred for a further 18 hours at 24°-25°C and the acetone is then evaporated off with the aid of a rotary evaporator. The oil-water mixture which remains is extracted twice with 30 ml of ethyl acetate at a time. The extracts are washed with 20 ml of saturated sodium chloride solution, then combined, dried over sodium sulphate and evaporated in vacuo. The residue is chromatographed on a column of 120 g of silica gel which is eluted with a mixture of chloroform and methanol (95:5). The eluate is evaporated with the aid of a rotary evaporator and the residue is recrystallized from toluene. Colourless crystals of 1-[5-(2-butyramido-ethyl)-2-thienylsulphonyl]-2-imino-3-cyclohexyl-imidazolidine of melting point 121°-125°C are obtained.

reactant | sodium hydroxide | 0.02 mol, 1 N, 20 ml | [OH-].[Na+]
reactant | 1-cyclohexyl-2-imino-imidazolidine hydrochloride | 0.01 mol, 2.04 g | Cl.C1(CCCCC1)N1C(NCC1)=N
reactant | 5-(2-butyramido-ethyl)-2-thiophenesulphonyl chloride | 0.01 mol, 2.96 g | C(CCC)(=O)NCCC1=CC=C(S1)S(=O)(=O)Cl | C10H14ClNO3S2
solvent | water acetone | 45 ml | O.CC(=O)C
product | 1-[5-(2-butyramido-ethyl)-2-thienylsulphonyl]-2-imino-3-cyclohexyl-imidazolidine | C(CCC)(=O)NCCC1=CC=C(S1)S(=O)(=O)N1C(N(CC1)C1CCCCC1)=N | C19H30N4O3S2
